US06133253
25b. 2-chloro-3-methyl-5-hydroxypyridine
To a solution of boron trifluoride diethyl etherate (5.8 mL, 47.5 nmmol) in DME (18 mL) at -14° C. was added dropwise a solution of 5-amino-2-chloro-3-methylpyridine (4.5 g, 31.7 mmol) in DME (60 mL). The mixture was stirred for 15 minutes and then a solution of t-butyl nitrite (4.5 mL, 38 mmol) in DME (60 mL) was added dropwise. The mixture was stirred for 1 hour at 0° C., then pentane (100 mL) was added to give a solid. The solid was collected by filtration and dried to give the title compound (6.9 g): 1H NMR (MeOH-d4, 300 MHz) δ 2.58 (s, 3H), 8.86 (d, J=2.1 Hz, 1H), 9.41 (d, J=2.4 Hz, 1H).

reactant | boron trifluoride diethyl etherate | 5.8 mL | B(F)(F)F.CCOCC
reactant | 5-amino-2-chloro-3-methylpyridine | 31.7 mmol, 4.5 g | NC=1C=C(C(=NC1)Cl)C | C6H7ClN2
reactant | t-butyl nitrite | 38 mmol, 4.5 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | pentane | 100 mL | CCCCC | C5H12
solvent | DME | 18 mL | COCCOC | C4H10O2
solvent | DME | 60 mL | COCCOC | C4H10O2
solvent | DME | 60 mL | COCCOC | C4H10O2
product | 2-chloro-3-methyl-5-hydroxypyridine | 6.9 g | ClC1=NC=C(C=C1C)O | C6H6ClNO
